US07745458B2
Preparation 9: 2-(methylthio)-4-[(phenylmethyl)oxy]pyrimidine (P9)
Benzyl alcohol (1.3 mL) was added dropwise to a suspension of sodium hydride (60% in mineral oil, 0.74 g) in 12.4 mL of dry dioxane, and the mixture was stirred at 100° C. for 30 min. A solution of 4-chloro-2-(methylthio)pyrimidine (2.0 g) in dry dioxane (8.2 mL) was added dropwise at 50° C. and the mixture was stirred at this temperature for 5 hours. After cooling at room temperature the mixture was acidified with glacial acetic acid, treated with water and extracted with dichloromethane. The organic phases were dried over anhydrous Na2SO4 filtered and concentrated under reduced pressure. The crude product was purified by a silica SPE cartridge (70 g) eluting with ciclohexane/ethyl acetate from 95/5 to 9/1 to give the title compound as a white solid (1.22 g).

reactant | Benzyl alcohol | 1.3 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 0.74 g | [H-].[Na+]
reactant | 4-chloro-2-(methylthio)pyrimidine | 2.0 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 12.4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 8.2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(methylthio)-4-[(phenylmethyl)oxy]pyrimidine | 1.22 g | CSC1=NC=CC(=N1)OCC1=CC=CC=C1 | C12H12N2OS
